### PR TITLE
[Merged by Bors] - feat(Algebra/MvPolynomial): Schwartz-Zippel lemma

### PR DESCRIPTION
**Pull request by BoltonBailey**
An implementation of the Schwartz-Zippel lemma

Sometimes also called the DeMillo–Lipton–Schwartz–Zippel lemma.

---

- [x] depends on: #6605
- [x] depends on: #6604
- [x] depends on: #7206
- [x] depends on: #7208
- [x] depends on: #7898
- [x] depends on: #11401
- [x] depends on: #17499
- [x] depends on: #17506
- [x] depends on: #19191
- [x] depends on: #19201
- [x] depends on: #19202
- [x] depends on: #19245
- [x] depends on: #19460
- [x] depends on: #19461 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by digama0** [comment]
Note: I have pushed an update to the lean toolchain because this PR was on a [buggy version](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Potential.20data.20loss.20from.20.60lake.20clean.60.20with.204.2E2.2E0-rc2.2F3/near/397875701) of the toolchain. **WARNING**: checking out old commits of this PR using v4.2.0-rc2 or v4.2.0-rc3 can cause `lake clean` to delete your mathlib folder! If you need to do so, make sure to delete `lakefile.olean` manually before running any `lake` commands.

File: Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean [hunk 1]
```diff
@@ -0,0 +1,123 @@
...
+
+This lemma tells us that the probability that a nonzero multivariable polynomial over an integral
+domain evaluates to zero at a random point is bounded by the degree of the polynomial over the size
+of the field, or more generally, that a nonzero multivariable polynomial over any integral domain
+has a low probability of being zero when evaluated at points drawn at random from some finite subset
+of the field. This lemma is useful as a probabilistic polynomial identity test.
+
+## TODO
+
+* Generalize to noncommutative rings? Is that even possible?
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean:24]: One can define evaluation of polynomials over noncommutative rings, but it is not a ring morphism, and the statement will be wrong. For example, the equation $$T^2+1=0$$ on Hamilton quaternions has infinitely many solutions, and the finite set $$S=\{i,j,k\}$$ is a counterexample.

File: Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean [hunk 2]
```diff
@@ -0,0 +1,123 @@
...
+* Generalize to subset of the ring being different for each variable.
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean:25]: Yes, I think this should be done here. The same approach should work.

File: Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean [hunk 3]
```diff
@@ -0,0 +1,123 @@
...
+  * What does the theorem say in this case?
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean:26]: It means bounding above the set of solutions in a product type. A particular case would imply that if $$f$$ is a polynomial in $$T_1,\dots,T_n$$, $$A_1,\dots,A_n$$ are finite sets of cardinalities $$|A_i|>\deg_{T_i}(f)$$ for all $$i$$, then $$f$$ doesn't vanish identically on $$A_1\times\dots\times A_n$$. This is proved in a PR of mine, #16177, as one step of Alon's combinatorial Nullstellensatz.

File: Mathlib/Data/Fin/Tuple/Finset.lean [hunk 4]
```diff
@@ -57,33 +57,48 @@ namespace Finset
 variable {n : ℕ} {α : Fin (n + 1) → Type*} {p : Fin (n + 1)} (S : ∀ i, Finset (α i))
 
 lemma map_consEquiv_filter_piFinset (P : (∀ i, α (succ i)) → Prop) [DecidablePred P] :
-    ((piFinset S).filter fun r ↦ P <| tail r).map (consEquiv α).symm.toEmbedding =
-      S 0 ×ˢ (piFinset fun x ↦ S <| succ x).filter P := by
+    {r ∈ piFinset S | P (tail r)}.map (consEquiv α).symm.toEmbedding =
```
Comment (AntoineChambert-Loir) [inline Mathlib/Data/Fin/Tuple/Finset.lean:60]: Is this an equality of `finset` (as in the original version) — I mean, is there a new notation for `filter` — or is this an equality of sets ?

Comment (YaelDillies) [reply Mathlib/Data/Fin/Tuple/Finset.lean:60]: Yes, this is a new notation for `filter`. See #11532

File: Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean:25]: Are you sure it's a "particular case"? When applying Schwartz-Zippel, I find myself having to prove that $\sum_i \frac{\deg_{T_i}(f)}{|A_i|} < 1$, which doesn't seem true given the mere $\deg_{T_i}(f) < |A_i|$ assumption.

Comment (YaelDillies) [reply Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean]: Here is my code, if you want to complete it (with all the `open` from this PR)
```
/-- A corollary of the **Schwartz-Zippel** lemma. -/
lemma exists_mem_piFinset_eval_ne_zero_of_degreeOf_lt_card {n} {p : MvPolynomial (Fin n) R}
    (hp : p ≠ 0) {S : Fin n → Finset R} (hS : ∀ i, (S i).Nonempty) (hpS : p.degreeOf < (#S ·)) :
    ∃ f ∈ S ^^ n, eval f p ≠ 0 := by
  by_contra! h
  refine lt_irrefl (1 : ℚ≥0) ?_
  calc
    (1 : ℚ≥0) = #{f ∈ S ^^ n | eval f p = 0} / ∏ i, (#S i : ℚ≥0) := by
      rw [filter_eq_self.2 h, card_piFinset, Nat.cast_prod, div_self]
      exact prod_ne_zero_iff.2 fun i _ ↦ mod_cast (hS _).card_ne_zero
    _ ≤ ∑ i, (p.degreeOf i / #S i : ℚ≥0) := schwartz_zippel hp _
    _ < 1 := sorry -- Are you sure this is true?
```

File: Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean [hunk 5]
```diff
@@ -0,0 +1,123 @@
...
+-- We want to be able to refer to `hp` and `hm`.
+set_option linter.unusedVariables false in
+/-- The **Schwartz-Zippel lemma**
+
+For a nonzero multivariable polynomial `p` over an integral domain, the probability that `p`
+evaluates to zero at points drawn at random from some finite subset `S` of the integral domain is
+bounded by the degree of `p` over `|S|`. This version presents this lemma in terms of `Finset`. -/
+lemma schwartz_zippel (F : Type*) [CommRing F] [IsDomain F] [DecidableEq F] {m : ℕ} :
+    ∀ n {p : MvPolynomial (Fin n) F} (hp : p ≠ 0) (S : Fin n → Finset F) (hm : ∀ i, #S i = m),
+      #{f ∈ S ^^ n | eval f p = 0} * m ≤ p.totalDegree * m ^ n
```
Comment (jcommelin) [inline Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean]: I was brought up in a world where polynomials were called `f` and points were called `p`. So this version is quite confusing to me.
Could you please call the elements of `F` something like `x`?

File: Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean [hunk 6]
```diff
@@ -0,0 +1,123 @@
...
+* [schwartz_1980]
+* [zippel_1979]
+-/
+
+local prefix:100 "#" => Finset.card
+local notation:70 s:70 " ^^ " n:71 => Fintype.piFinset fun i : Fin n ↦ s i
+
+open Fin Finset Fintype MvPolynomial
+
+-- We want to be able to refer to `hp` and `hm`.
```
Comment (jcommelin) [inline Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean:43]: I'm sorry, what do you mean with this?

Comment (YaelDillies) [reply Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean:43]: If I remove the `set_option` below, I must rename `hp` and `hm` to `_hp` and `_hm` in the statement

File: Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean (hunk 3 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean]: No I'm not sure at all. It was rather a guess based on my understanding of what something such as Schwartz-Zippel says (or should say) than an affirmation.

File: Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean [hunk 7]
```diff
@@ -0,0 +1,144 @@
...
+          set pₓ := p'.map (eval xₜ) with hpₓ
+          have hpₓdeg : pₓ.natDegree = k := by
+            rw [hpₓ, hk, Polynomial.natDegree_map_of_leadingCoeff_ne_zero (eval xₜ) hxₜ.2]
+          have hpₓ₀ : pₓ ≠ 0 := fun h ↦ hxₜ.2 <| by
+            rw [hpₖ, Polynomial.leadingCoeff, ← hk, ← hpₓdeg, h, Polynomial.natDegree_zero,
+              ← Polynomial.coeff_map, ← hpₓ, h, Polynomial.coeff_zero]
+          calc
+            #{x₀ ∈ S 0 | eval (cons x₀ xₜ) p = 0} ≤ #pₓ.roots.toFinset := by
+              gcongr
+              simp (config := { contextual := true}) [subset_iff, eval_eq_eval_mv_eval', pₓ, hpₓ₀]
```
Comment (b-mehta) [inline Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean:133]:
```suggestion
              simp (config := {contextual := true}) [subset_iff, eval_eq_eval_mv_eval', pₓ, hpₓ₀]
```
I don't really mind where the spaces are, but let's be consistent on both sides!

File: Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean [hunk 8]
```diff
@@ -0,0 +1,144 @@
...
+              rfl
+            _ ≤ ∑ xₜ ∈ tail S ^^ n with eval xₜ pₖ ≠ 0,
+                  #image (fun x₀ ↦ (x₀, xₜ)) {x₀ ∈ S 0 | eval (cons x₀ xₜ) p = 0} := card_biUnion_le
+            _ ≤ ∑ xₜ ∈ tail S ^^ n with eval xₜ pₖ ≠ 0, #{x₀ ∈ S 0 | eval (cons x₀ xₜ) p = 0} := by
+              gcongr; exact card_image_le
+            _ ≤ ∑ xₜ ∈ tail S ^^ n with eval xₜ pₖ ≠ 0, p.degreeOf 0 := ?_
+            _ ≤ ∑ _xₜ ∈ tail S ^^ n, p.degreeOf 0 := by gcongr; exact filter_subset ..
+            _ = p.degreeOf 0 * ∏ i, #S (.succ i) := by simp [mul_comm, tail]
+          gcongr with xₜ hxₜ
+          simp at hxₜ
```
Comment (b-mehta) [inline Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean:123]: This one looks incredibly non-terminal.

File: Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean]: I knew something was itching me with this simp call but I couldn't see what!

File: Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean (hunk 3 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean]: The following paper indicates results that mathlib could host.

https://arxiv.org/abs/2305.10900

Comment (YaelDillies) [reply Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean]: Ahahah. This is the paper that Bhavik and I were looking at to try beating your combinatorial nullstellensatz PR 🙈

Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean]: There's nothing to beat. Let's be adults and do it.

Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean]: All of this is basic and easy math. The only problem is that it is often written like sh*t. (This paper is nicer, and the one by Pete Clark is cleaner too.)

Comment (YaelDillies) [reply Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean]: > There's nothing to beat. Let's be adults and do it.

To be clear, we were working on the generalisation just to spite you, but rather because we started working on it long before you opened your PR, and we thought it would be a good way to just keeping working on it

> The only problem is that it is often written like sh*t.

Yes, agree 😓

Comment (b-mehta) [reply Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean]: Yes, I'm not sure where "beat" comes from here - I needed a generalisation of the combinatorial nullstellensatz (one of the ones in that paper) for an application, and started working on it on my own just before your PR. But yours develops a useful amount of theory, and I see no need to block it based off an incomplete generalisation which uses different machinery.

Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean]: This discussion makes me wonder what kind of collaborative project mathlib is. In the not exactly similar context of scientific publication, what you hint at (envisioning blocking something because a more general thing is in view) is considered as plainly unacceptable. The normal thing to do would be to mention the expected generalization and to ask whether it can be reached along this line.

Comment (b-mehta) [reply Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean]: I completely agree that blocking your work here would be plainly unacceptable. I simply mean that Lason's version was incomplete by the time you finished Alon's version, and I needed to prioritise other things instead of continuing to work on that.

Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean]: If I understand correctly, there are three different ongoing works on this kind of ideas:
* the present PR by Bolton on Schwartz-Zippel
* my PR on the combinatorial Nullstellensatz
* subsequent work, eventually by Bhavik and Yaël, on a joint generalization.
May I suggest that then, things are done a bit differently? 
Is it worth the time and effort to commit neat PRs that will soon be superseded or should we join forces towards the envisioned general case? (Of course, that depends upon what “soon” means. And I'm wary of the potential dark holes created by good-will assertions such as “I have this and that good idea in mind that would…”, I've seen too much of them in my other math life.)

Comment (b-mehta) [reply Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean]: I don't quite agree with the third ongoing work - the truth is that I have a 300 line file which exists solely on my laptop, most of which is developing theory unrelated to the Nullstellensatz, but contains a statement of Lason's version at the end. This one gives a slight generalisation of the main result of your PR, and is unrelated to the present PR: there is no known statement of a Nullstellensatz that implies both Alon's Nullstellensatz and the Schwartz-Zippel lemma. This file also hasn't been touched in the last month.

More importantly however, the theory that I began to develop is completely independent of the theory developed in your PR: everything except the last 80 lines in your Nullstellensatz.lean file would not be superseded (ie that's 1.5k lines that I don't plan to alter), and indeed the work there consists of things which ought to be in mathlib.

I'm very happy to join forces here, but where things stand currently I have comparatively little to contribute, so it would ultimately be me attempting to claim credit where it's undeserved.

Comment (YaelDillies) [reply Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean]: I agree with your understanding. I should however point out that
1. There is not *one* general case, but *two*. Schwartz-Zippel here is generalised by a different statement to the one generalising the combinatorial nullstellensatz.
2. In light of point 1, I duplicated little to no effort with your combinatorial nullstellensatz PR. Bhavik duplicated a bit before you opened the PR, but he stopped.
3. Most of your work would not be lost if we want to work on the generalisation. Everything about Gröbner bases and monomial division would still be useful. Only the very last part where you deduce the combinatorial nullstellensatz itself would change.
4. Point 1 might actually be a bit of a lie because Bhavik and I have heard that Sammy Luo managed to generalise. I don't know much more than that, though.

Comment (b-mehta) [reply Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean]: Luo's recent work is here: https://arxiv.org/abs/2311.08873. It doesn't seem to mention Schwartz-Zippel at all, instead generalising two other polynomial methods along with CN. I think it's a distraction to this discussion, although the work is interesting.

Comment (b-mehta) [reply Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean]: > Bhavik duplicated a bit before you opened the PR, but he stopped.

I don't believe I duplicated anything - there aren't even any identical statements in my file, let alone proofs!

Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean]: > It means bounding above the set of solutions in a product type. 

If I'm not mistaken, the statement would be, for a product $$A=\prod_{i\in I}A_i$$ of nonempty finite sets of a domain $$R$$ and a polynomial $$ f \in R[(T_i)] $$, than the number $$ \delta_A(f)$$ of zeroes of $$f$$ in $$A$$ satisfies $$ \delta_A(f) / |A| \leq \sup_d (\sum d_i/|A_i|)$$, the supremum being taken on the support of $$f$$. (IFor $$f\neq 0$$, one can even take $$d$$ to be the largest monomial for the lexicographic degree.)

Comment (YaelDillies) [reply Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean]: Antoine, I've already proved this in this PR 😉 (except for the "largest in lexicographic degree" part)

Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean]: The lexicographic refinement has to be left for future work, maybe you can just add a note in the file?

File: Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean [hunk 9]
```diff
@@ -0,0 +1,145 @@
...
+of the field, or more generally, that a nonzero multivariable polynomial over any integral domain
+has a low probability of being zero when evaluated at points drawn at random from some finite subset
+of the field. This lemma is useful as a probabilistic polynomial identity test.
+
+## TODO
+
+* Generalize to polynomials over arbitrary variable types
+* Write a tactic to apply this lemma to a given polynomial
+* Can the RHS be strengthened to `p.support.sup fun s ↦  ∑ i, s i / #S i`? Namely, can the sup
+  inside the `p.degreeOf` be pulled outside?
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean:28]: Isn't it already done?

Comment (YaelDillies) [reply Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean:28]: No, I have currently proved `_ ≤ ∑ i, (p.support.sup fun s ↦ s i) / #S i`, not `_ ≤ p.support.sup fun s ↦ ∑ i, s i / #S i`

**Comment by quangvdao** [comment]
This PR seems to be passing and have no dependencies. Is it close to ready for merging?

**Comment by YaelDillies** [comment]
In my opinion, yes. But someone needs to review it (and then a maintainer needs to approve it). You should feel free to review!

File: Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean [hunk 10]
```diff
@@ -0,0 +1,146 @@
...
+                filter_map, card_map, product_eq_biUnion_right, filter_biUnion]
+              simp [Function.comp_def, Finset.filter_image, filter_filter]
+              rfl
+            _ ≤ ∑ xₜ ∈ tail S ^^ n with eval xₜ pₖ ≠ 0,
+                  #(image (fun x₀ ↦ (x₀, xₜ)) {x₀ ∈ S 0 | eval (cons x₀ xₜ) p = 0}) :=
+              card_biUnion_le
+            _ ≤ ∑ xₜ ∈ tail S ^^ n with eval xₜ pₖ ≠ 0, #{x₀ ∈ S 0 | eval (cons x₀ xₜ) p = 0} := by
+              gcongr; exact card_image_le
+            _ ≤ ∑ xₜ ∈ tail S ^^ n with eval xₜ pₖ ≠ 0, p.degreeOf 0 := ?_
+            _ ≤ ∑ _xₜ ∈ tail S ^^ n, p.degreeOf 0 := by gcongr; exact filter_subset ..
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean:121]: I am allergic to `apply`, sorry 😁

File: Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean [hunk 11]
```diff
@@ -0,0 +1,146 @@
...
+-/
+
+local notation:70 s:70 " ^^ " n:71 => Fintype.piFinset fun i : Fin n ↦ s i
+
+open Fin Finset Fintype
+
+namespace MvPolynomial
+variable {R : Type*} [CommRing R] [IsDomain R] [DecidableEq R]
+
+-- We want to be able to refer to `hp` and `hm`.
```
[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean:46]: I am allowed to name `hp` if it comes before the colon, so I should be allowed to name it if it comes after the colon. 

-- Yaël

[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean]: If `hp` comes before the colon, it is an argument to the theorem and is named so that you can refer to it during the proof. In this case, the argument gets named on line 56, and the variable name on line 54 is indeed unused, as the linter says. The name given here additionally doesn't seem helpful - I agree with @Command-Master's point. In particular, because of the use of the equation compiler here, coming before or after the colon is not a fair comparison.

You could alternatively write `∀ {n} {p : MvPolynomial (Fin n) R} (S : Fin n → Finset R), p ≠ 0 →` and avoid the underscore altogether.

Can you amend the comment on line 46 to give a justification for why disabling the linter here is necessary?

File: Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean [hunk 12]
```diff
@@ -0,0 +1,147 @@
...
+            _ ≤ (p.degreeOf 0 / #(S 0) : ℚ≥0) := mul_div_mul_right_le (by positivity)
+          gcongr
+          calc
+            #{x ∈ S ^^ (n + 1) | eval x p = 0 ∧ eval (tail x) pₖ ≠ 0}
+              = #{x ∈ S ^^ (n + 1) | eval (tail x) pₖ ≠ 0 ∧ eval x p = 0} := by simp_rw [and_comm]
+            _ = #({xₜ ∈ tail S ^^ n | eval xₜ pₖ ≠ 0}.biUnion fun xₜ ↦ image (fun x₀ ↦ (x₀, xₜ))
+                  {x₀ ∈ S 0 | eval (cons x₀ xₜ) p = 0}) := by
+              rw [← filter_filter, filter_piFinset_eq_map_consEquiv S (fun r ↦ eval r pₖ ≠ 0),
+                filter_map, card_map, product_eq_biUnion_right, filter_biUnion]
+              simp [Function.comp_def, Finset.filter_image, filter_filter]
```
Comment (b-mehta) [inline Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean:114]:
```suggestion
              simp [Function.comp_def, filter_image, filter_filter]
```

File: Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean (hunk 11 above)
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean]: Yes but I am takin the pov of the api here. A user should be able to provide `hp` as a named argumznt regardless of whether i have used pattern-maching or `induction` to prove my lemma

[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean]: In that case, please amend the comment on line 46 with this.

File: Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean (hunk 9 above)
Comment (erdOne) [reply Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean]: Update: It's done.

File: Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean [hunk 13]
```diff
@@ -0,0 +1,201 @@
...
+      #{x ∈ S ^^ (n + 1) | eval x p = 0} / ∏ i, (#(S i) : ℚ≥0)
+          -- In the first case, `pₖ` evaluates to `0`.
+        = #{x ∈ S ^^ (n + 1) | eval x p = 0 ∧ eval (tail x) pₖ = 0} / ∏ i, (#(S i) : ℚ≥0)
+          -- In the second case, `pₖ` does not evaluate to `0`.
+          + #{x ∈ S ^^ (n + 1) | eval x p = 0 ∧ eval (tail x) pₖ ≠ 0} / ∏ i, (#(S i) : ℚ≥0) := by
+        rw [← add_div, ← Nat.cast_add, ← card_union_add_card_inter, filter_union_right,
+          ← filter_and]
+        simp [← and_or_left, em, and_and_and_comm]
+      _ ≤ (pₖ.support.sup fun s ↦ ∑ i, (s i / #(S i.succ) : ℚ≥0)) + p.degreeOf 0 / #(S 0) := ?_
+      -- _ = (pₖ.support.sup fun s ↦ ∑ i, (s i / #(S i.succ) : ℚ≥0)) + k / #(S 0) := ?_
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean:96]:
```suggestion
```

File: Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean [hunk 14]
```diff
@@ -0,0 +1,201 @@
...
+        gcongr
+        calc
+          #{x ∈ S ^^ (n + 1) | eval x p = 0 ∧ eval (tail x) pₖ ≠ 0}
+            = #{x ∈ S ^^ (n + 1) | eval (tail x) pₖ ≠ 0 ∧ eval x p = 0} := by simp_rw [and_comm]
+          _ = #({xₜ ∈ tail S ^^ n | eval xₜ pₖ ≠ 0}.biUnion fun xₜ ↦ image (fun x₀ ↦ (x₀, xₜ))
+                {x₀ ∈ S 0 | eval (cons x₀ xₜ) p = 0}) := by
+            rw [← filter_filter, filter_piFinset_eq_map_consEquiv S (fun r ↦ eval r pₖ ≠ 0),
+              filter_map, card_map, product_eq_biUnion_right, filter_biUnion]
+            simp [Function.comp_def, filter_image, filter_filter]
+            rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean:131]: Why do you need this rfl? Missing lemma?

File: Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean [hunk 15]
```diff
@@ -0,0 +1,201 @@
...
+      simp [k, natDegree_finSuccEquiv, p']
+
+/-- The **Schwartz-Zippel lemma**
+
+For a nonzero multivariable polynomial `p` over an integral domain, the probability that `p`
+evaluates to zero at points drawn at random from a product of finite subsets `S i` of the integral
+domain is bounded by the sum of `degᵢ p / #(S i)`. -/
+lemma schwartz_zippel_sum_degreeOf {n} {p : MvPolynomial (Fin n) R} (hp : p ≠ 0)
+    (S : Fin n → Finset R) :
+      #{x ∈ S ^^ n | eval x p = 0} / ∏ i, (#(S i) : ℚ≥0) ≤ ∑ i, (p.degreeOf i / #(S i) : ℚ≥0) := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean:177]:
```suggestion
    #{x ∈ S ^^ n | eval x p = 0} / ∏ i, (#(S i) : ℚ≥0) ≤ ∑ i, (p.degreeOf i / #(S i) : ℚ≥0) := by
```

File: Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean (hunk 14 above)
Comment (YaelDillies) [reply Mathlib/Algebra/MvPolynomial/SchwartzZippel.lean:131]: Yes, we're missing `coe_consEquiv`, which should come from `simps` but `simps` is currently misconfigured and I am planning to fix it in another PR

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
